US06673825B2
2-(3,5-Dichlorophenyl)-6-hydroxy-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione
A solution of 6-(tert-Butyl-dimethylsilyloxy)-2-(3,5-dichlorophenyl)-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione (1.9 g, 4.56 mmol) (Preparation 5) in a mixture of 50% hydrofluoric acid (2 ml) and acetonitrile (80 ml) was heated for 7 h at 50-60° C. in a Teflon flask. The solvent was removed under vacuum and the residue crystallized in diethyl ether to yield the above compound as a white solid (1.1 g, mp=160° C.). 1H NMR (CDCl3):7.49 (2H, m), 7.38 (1H, m), 4.54 (1H, br s), 3.98 (2H, d, J=12 Hz), 3.49 (2H, dd, J1=12 Hz, J2=2.1 Hz), 3.10 (1H, br s).

reactant | 6-(tert-Butyl-dimethylsilyloxy)-2-(3,5-dichlorophenyl)-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione | 4.56 mmol, 1.9 g | [Si](C)(C)(C(C)(C)C)OC1CN2N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C1 | C17H23Cl2N3O3Si
solvent | hydrofluoric acid | 2 ml | F | FH
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-(3,5-Dichlorophenyl)-6-hydroxy-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione | 1.1 g | ClC=1C=C(C=C(C1)Cl)N1C(N2N(C1=O)CC(C2)O)=O | C11H9Cl2N3O3
